US04060528
A mixture of 269 parts of p-bromo-α-methylbenzyl alcohol and 225 parts of 2H-3,4-dihydropyran is stirred and cooled to 0° C. Then there are added dropwise 10 drops of concentrated hydrochloric acid solution and the whole is stirred in an ice-bath (room temperature is reached). After stirring for 24 hours, the reaction mixture is poured onto 1200 parts of ether. The organic phase is washed twice with a sodium hydrogen carbonate solution and twice with water, dried, filtered and evaporated. The residue is distilled, yielding 2-(p-bromo-α-methylbenzyloxy)tetrahydropyran; bp. 165°-177° C. at 20 mm. pressure.

reactant | p-bromo-α-methylbenzyl alcohol | BrC1=CC=C(C(C)O)C=C1 | C8H9BrO
reactant | 2H-3,4-dihydropyran | C1CC=COC1 | C5H8O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-(p-bromo-α-methylbenzyloxy)tetrahydropyran | BrC1=CC=C(C(OC2OCCCC2)C)C=C1 | C13H17BrO2
